US03959322
Heat 5-(m-methoxyphenyl)-4-methyl-pent-1-yne (8 g), trioxan (0.5 g), 30% formalin (5.5 cc), diethylamine (4 g), acetic acid (2.75 g), dioxan (25 cc) and cuprous chloride (0.12 g) together at 70° for 15 hours. Make cooled solution alkaline with 10% aqueous sodium hydroxide and extract with ether. Wash the ethereal solution with water and extract with 10% hydrochloric acid (3 × 20 cc). Combine the acid extracts, wash with ether and make alkaline with 10% aqueous sodium hydroxide and extract with ether. Wash the ethereal solution, dry, remove the solvent and distil the residue at 0.1 mm to obtain 1-diethylamino-5-methyl-6-(m-methoxyphenyl)-hex-2-yne.

reactant | 5-(m-methoxyphenyl)-4-methyl-pent-1-yne | 8 g | COC=1C=C(C=CC1)CC(CC#C)C | C13H16O
reactant | trioxan | 0.5 g | O1OOCCC1 | C3H6O3
reactant | formalin | 5.5 cc | C=O | CH2O
reactant | diethylamine | 4 g | C(C)NCC | C4H11N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxan | 25 cc | O1CCOCC1 | C4H8O2
solvent | acetic acid | 2.75 g | C(C)(=O)O | C2H4O2
product | 1-diethylamino-5-methyl-6-(m-methoxyphenyl)-hex-2-yne | C(C)N(CC#CCC(CC1=CC(=CC=C1)OC)C)CC | C18H27NO
